US07700657B2
(j) 2-Benzoyloxymethyl-5-[3-((E)-1-ethylbut-1-en-3-ynyl)phenoxymethyl]benzyl benzoate
610 mg (3.5 mmol) of 3-((E)-1-ethylbut-1-en-3-ynyl)phenol are dissolved in 80 ml of DMF. 150 mg (3.7 mmol) of sodium hydride are added, and the mixture is stirred at ambient temperature. 1.5 g (6.2 mmol) of 2-benzoyloxymethyl-5-bromomethylbenzyl benzoate are then added, and the medium is stirred for 2 hours. After the usual treatment and purification by chromatography on a silica gel column, a colorless oil is obtained (m=1.66 g; Y=88%).

reactant | 3-((E)-1-ethylbut-1-en-3-ynyl)phenol | 3.5 mmol, 610 mg | C(C)/C(=C\C#C)/C=1C=C(C=CC1)O | C12H12O
reactant | sodium hydride | 3.7 mmol, 150 mg | [H-].[Na+]
reactant | 2-benzoyloxymethyl-5-bromomethylbenzyl benzoate | 6.2 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC(=C1)CBr)COC(C1=CC=CC=C1)=O | C23H19BrO4
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-Benzoyloxymethyl-5-[3-((E)-1-ethylbut-1-en-3-ynyl)phenoxymethyl]benzyl benzoate | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC(=C1)COC1=CC(=CC=C1)\C(=C\C#C)\CC)COC(C1=CC=CC=C1)=O | C35H30O5
